US04421758
(b) 1-{3-(4-Fluorophenyl)-trans-3-[6-(4-fluorophenoxymethyl)tetrahydropyran-2-yloxy]propyl}imidazole
A mixture of 56 mg of imidazole and 36 mg of 55% sodium hydride was stirred in 2 ml of dimethylformamide at 60°-70° C. for 30 minutes. The mixture was left to cool at room temperature, and then a solution of 218 mg of trans-6-(4-fluorophenoxymethyl)-2-[3-chloro-1-(4-fluorophenyl)propoxy]tetrahydropyran in 1 ml of dimethylformamide was added, and the mixture was heated, with stirring, at 80°-90° C. for 6 hours. At the end of this time, the mixture was treated and the product purified essentially as described in Example 34(b)(i), to give 110 mg of the title compound.

reactant | imidazole | 56 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 36 mg | [H-].[Na+]
reactant | trans-6-(4-fluorophenoxymethyl)-2-[3-chloro-1-(4-fluorophenyl)propoxy]tetrahydropyran | 218 mg | FC1=CC=C(OC[C@H]2CCC[C@@H](O2)OC(CCCl)C2=CC=C(C=C2)F)C=C1 | C21H23ClF2O3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-{3-(4-Fluorophenyl)-trans-3-[6-(4-fluorophenoxymethyl)tetrahydropyran-2-yloxy]propyl}imidazole | 110 mg | FC1=CC=C(C=C1)C(CCN1C=NC=C1)O[C@@H]1O[C@H](CCC1)COC1=CC=C(C=C1)F | C24H26F2N2O3
